US09034866B2
A mixture of 9-Bromo-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester (200 mg, 0.565 mmol), 2-methyl-3-butyn-2-ol (237 mg, 2.825 mmol), Pd(OAc)2 (13 mg, 0.0565 mmol), CuI (21 mg, 0.113 mmol) and PPh3 (45 mg, 0.17 mmol) in Et3N (10 mL) was degassed with N2, and the mixture was stirred at 80° C. overnight. The reaction was cooled to room temperature, concentrated and purified by flash column chromatography (silica gel, EtOAc in hexane from 0 to 30%) to give 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester as an off-white solid (81 mg, 40%). LC-MS (ESI & APCI): 358.2 (M+1).

reactant | 9-Bromo-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 0.565 mmol, 200 mg | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)Br)=O | C13H8BrNO4S
reactant | 2-methyl-3-butyn-2-ol | 2.825 mmol, 237 mg | CC(C)(C#C)O | C5H8O
reactant | PPh3 | 0.17 mmol, 45 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | Et3N | 10 mL | CCN(CC)CC | C6H15N
catalyst | Pd(OAc)2 | 0.0565 mmol, 13 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | CuI | 0.113 mmol, 21 mg | [Cu]I
product | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-4-oxo-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid methyl ester | 81 mg, 40% | COC(=O)C=1SC=2C(COC3=C(C2N1)C=C(C=C3)C#CC(C)(C)O)=O | C18H15NO5S
